US09193741B2
Synthesis of 2-amino-6-(4-fluorophenyl)thieno[2,3-d]pyrimidin-4(3H)-one
A mixture of ethyl 2-amino-5-(4-fluorophenyl)thiophene-3-carboxylate (0.3 g, 1.13 mmol), chloroformamidine hydrochloride (0.33 g, 2.83 mmol) and dimethylsulfone (0.53 g, 5.65 mmol) was heated at 120-130° C. for 30 minutes. After cooling down to room temperature, water (10 ml) was added and ammonium hydroxide was used to neutralize the suspension. The solid was filtered off, washed with water and dried. The crude residue was purified by flash chromatography on silica gel (CH2Cl2/MeOH 10:1) to yield the title compound as a white solid (0.28 g, 95%).

reactant | ethyl 2-amino-5-(4-fluorophenyl)thiophene-3-carboxylate | 1.13 mmol, 0.3 g | NC=1SC(=CC1C(=O)OCC)C1=CC=C(C=C1)F | C13H12FNO2S
reactant | chloroformamidine hydrochloride | 2.83 mmol, 0.33 g | Cl.ClC(=N)N
reactant | dimethylsulfone | 5.65 mmol, 0.53 g | CS(=O)(=O)C | C2H6O2S
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | water | 10 ml | O | H2O
product | 2-amino-6-(4-fluorophenyl)thieno[2,3-d]pyrimidin-4(3H)-one | 0.28 g, 95% | NC=1NC(C2=C(N1)SC(=C2)C2=CC=C(C=C2)F)=O | C12H8FN3OS
